*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXC350ARA101MHA0G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXC350ARA101MHA0G_20deg-C 1 2

C1 4 2 8.31e-05
C2 5 2 9.96e-06
C3 6 2 5.73e-06
R1 3 4 1.69e-02
R2 4 5 3.10e-01
R3 5 6 4.24e+00
L1 1 3 3.70e-09

.ENDS
*$
